US08389524B2
(e) (1R)-1-{[(3S)-3-(aminomethyl)-1-pyrrolidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione
To a 25 mL round-bottomed flask was added N-[((3S)-1-{[(1R)-4,9-dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-3-pyrrolidinyl)methyl]-2,2,2-trifluoroacetamide (85 mg, 0.214 mmol) in methanol (9 ml) and water (1.00 ml) to give a yellow solution. Potassium carbonate (59.3 mg, 0.429 mmol) was added and the reaction was stirred overnight. LCMS indicated a complete reaction. The reaction was diluted with 20% MeOH/DCM (100 mL), dried over Na2SO4, filtered and concentrated to give the product (60 mg, 0.200 mmol, 93% yield) as an orange solid.

reactant | N-[((3S)-1-{[(1R)-4,9-dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-3-pyrrolidinyl)methyl]-2,2,2-trifluoroacetamide | 0.214 mmol, 85 mg | O=C1N2C=3N(C(C=CC3C=C1)=O)[C@@H](C2)CN2C[C@@H](CC2)CNC(C(F)(F)F)=O | C18H19F3N4O3
reactant | Potassium carbonate | 0.429 mmol, 59.3 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 9 ml | CO | CH4O
solvent | water | 1.00 ml | O | H2O
solvent | MeOH DCM | 100 mL | CO.C(Cl)Cl
product | (1R)-1-{[(3S)-3-(aminomethyl)-1-pyrrolidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 0.200 mmol, 60 mg, 93% yield | NC[C@H]1CN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
